US05688929
Preparation of hexyl α-D-galactopyranoside uronic acid
100 g (0.33 mole) of sodium hexyl α-D-galactopyranoside uronate prepared according to Example 11 are solubilized in water (15% solution). After acidification to pH=2, concentrating under vacuum and selectively precipitating the salts in acetone, hexyl α-D-galactopyranoside uronic acid, whose physicochemical characteristics are indicated below, is recovered with a 95% yield:

reactant | sodium hexyl α-D-galactopyranoside uronate | 0.33 mole, 100 g | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)[O-])CCCCCC.[Na+]
solvent | water | O | H2O
product | hexyl α-D-galactopyranoside uronic acid | 95% yield | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)O)CCCCCC | C12H22O7
